US07632833B2
Step I: 3-(2-Acetyl-8-fluoro-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazin-3-yl)propanal (5-9)
1-[8-Fluoro-3-(3-hydroxypropyl)-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazin-2-yl]ethanone (5-8; a racemic mixture, 1.23 g, 3.34 mmol) was dissolved in anhydrous CH2Cl2 (20 mL) and was treated with Dess-Martin periodinane (2.26 g, 5.3 mmol) and the resulting cloudy yellow solution was stirred 1.5 h. Upon completion, the cloudy solution was treated with 10 mL sat. sodium thiosulfate/NaHCO3 solution (1:1) and stirred 30 min. The mixture was extracted with EtOAc (3×20 mL), and the combined organics were dried (MgSO4), filtered and concentrated. The crude residue 3-(2-acetyl-8-fluoro-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazin-3-yl)propanal (5-9; a racemic mixture) was carried directly into the next transformation: MS (M+H+, C21H19FN2O3) 367.3 found 367.4 required.

reactant | 1-[8-Fluoro-3-(3-hydroxypropyl)-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazin-2-yl]ethanone | FC=1C=CC2=C(N3C(CO2)C(C(=N3)C(C)=O)(C3=CC=CC=C3)CCCO)C1 | C21H21FN2O3
reactant | Dess-Martin periodinane | 5.3 mmol, 2.26 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate NaHCO3 | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+].C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Acetyl-8-fluoro-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazin-3-yl)propanal | C(C)(=O)C1=NN2C(COC3=C2C=C(C=C3)F)C1(C1=CC=CC=C1)CCC=O | C21H19FN2O3
